US08871187B2
9-3 (R)-2-Amino-3-(4-methoxyphenyl)-1-(3-pentyl-3-(4-fluorophenyl)azetidin-1-yl)-propan-1-one
780 mg (1.56 mmol) of tert-butyl[(R)-1-(4-methoxybenzyl)-2-oxo-2-(3-pentyl-3-(4-fluoro-phenyl)azetidin-1-yl)ethyl]carbamate are solubilized in 10 ml of dichloromethane. 4 ml of trifluoroacetic acid are introduced. The reaction medium is stirred for 1 hour and then concentrated to dryness. The residue is taken up in a 1N aqueous solution of sodium hydroxide and extracted with dichloromethane and then the resulting product is dried over magnesium sulphate, filtered and evaporated.

reactant | tert-butyl[(R)-1-(4-methoxybenzyl)-2-oxo-2-(3-pentyl-3-(4-fluoro-phenyl)azetidin-1-yl)ethyl]carbamate | 1.56 mmol, 780 mg | C(C)(C)(C)OC(N[C@@H](C(N1CC(C1)(C1=CC=C(C=C1)F)CCCCC)=O)CC1=CC=C(C=C1)OC)=O | C29H39FN2O4
reactant | trifluoroacetic acid | 4 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | (R)-2-Amino-3-(4-methoxyphenyl)-1-(3-pentyl-3-(4-fluorophenyl)azetidin-1-yl)-propan-1-one | N[C@@H](C(=O)N1CC(C1)(C1=CC=C(C=C1)F)CCCCC)CC1=CC=C(C=C1)OC | C24H31FN2O2
